US05095038
A mixture of methyl 4-[7-(2-carboxypropyl)naphth-1-ylmethyl]-3-methoxybenzoate (1.176 g), 4-dimethylaminopyridine (440 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (690 mg), propylamine (0.295 ml) and methylene chloride (20 ml) was stirred for 18 h. Ethyl acetate (100 ml) was added, the solution was washed (1N hydrochloric acid, brine) and dried (MgSO4). Evaporation and flash chromatography, eluting with 2:30:70 triethylamine:ethyl acetate:petroleum ether, gave a solid. Recrystallization from methylene chloride and hexane, followed by grinding to a powder and vacuum drying, afforded methyl 4-[7-[2-(propylcarbamoyl)propyl]naphth-1-ylmethyl]-3-methoxybenzoate (910 mg, 70%) as a colorless solid; mp 129.5°-130.0° C.; MS(CI), m/e=434(M+H).

reactant | methyl 4-[7-(2-carboxypropyl)naphth-1-ylmethyl]-3-methoxybenzoate | 1.176 g | C(=O)(O)C(CC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C24H24O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 690 mg | Cl.CN(CCCN=C=NCC)C
reactant | propylamine | 0.295 ml | C(CC)N | C3H9N
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 440 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[7-[2-(propylcarbamoyl)propyl]naphth-1-ylmethyl]-3-methoxybenzoate | 910 mg, 70% | C(CC)NC(=O)C(CC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)C | C27H31NO4
